2164-12-20 06:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Had 1 episode of 500 cc hematemesis-called GI, underwent emergent
   endoscopy but patient unable to tolerate, NG placed, continued bright
   blood.  Rectal tube placed, initially dark but turned more red
   overnight.  Given 1 U pRBC to start, followed by 2 more units for
   persistent bright red blood in NG.
 ENDOSCOPY - At [**2164-12-20**] 01:00 AM
   Allergies:
   Meperidine
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2164-12-19**] 10:00 PM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-12-19**] 10:00 PM
   Midazolam (Versed) - [**2164-12-20**] 01:00 AM
   Fentanyl - [**2164-12-20**] 01:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-12-20**] 06:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.1
C (96.9
   HR: 78 (73 - 91) bpm
   BP: 93/53(63) {83/36(47) - 135/61(74)} mmHg
   RR: 9 (9 - 18) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                    178 mL
                                                                  1,282 mL
   PO:
           TF:
   IVF:
                                                                    178 mL
                                                                    610 mL
   Blood products:
   673 mL
   Total out:
                                                                    550 mL
                                                                    290 mL
   Urine:
                                                                    250 mL
                                                                    290 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                   -372 mL
                                                                    992 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   General: Alert, oriented, no acute distress, nonjaundiced
   HEENT: Sclera slight yellow hue, MMM, oropharynx clear, but NG tube
   draining blood
   Neck: supple, JVP 7-8, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, uncomfortable on palpating RUQ, non-distended, bowel
   sounds present, no rebound tenderness or guarding, no organomegaly,
   rectal tube draining blood
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   59 K/uL
   10.2 g/dL
   97 mg/dL
   1.1 mg/dL
   21 mEq/L
   3.9 mEq/L
   22 mg/dL
   111 mEq/L
   140 mEq/L
   29.4 %
   3.2 K/uL
        [image002.jpg]
                             [**2164-12-19**]  06:44 PM
                             [**2164-12-19**]  09:58 PM
   WBC
   3.2
   Hct
   27.8
   29.4
   Plt
   59
   Cr
   1.2
   1.1
   Glucose
   98
   97
   Other labs: PT / PTT / INR:15.0/33.0/1.3, ALT / AST:26/73, Alk Phos / T
   Bili:57/2.3, Amylase / Lipase:100/93, Differential-Neuts:71.3 %,
   Lymph:21.8 %, Mono:3.6 %, Eos:3.3 %, Lactic Acid:1.8 mmol/L,
   Albumin:3.2 g/dL, LDH:559 IU/L, Ca++:8.2 mg/dL, Mg++:2.5 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
   Assessment and Plan: This is a 45 F w/ pmh of EtOH cirrhosis s/p TIPS
   with hematemesis.
   .
   # GI Bleed: Known grade III esophageal varices and gastric varices.
   -follow serial HCT Q 4 hours
   -active T and S, transfuse <28 in setting of active bleeding
   -continue octreotide drip at 50/hour
   -consult hepatology
   -Pantoprazole 40 IV Q 12
   -NPO
   -2 PIV
   -Hold propranolol, spironolactone
   -EKG
   -f/U Revision TIPS today
   -Check fibrinogen level, if <100 will need cryoprecipitate
   -Consult transplant surgery
   -F/U on US
   .
   # EtOH Cirrhosis: MELD score as of [**12-4**] was 12.
   - continue rifaxamin, spironolactone, lactulose w/ goal of 3 BM per day
   -discontinue Cipro and start ceftriaxone
   -Hold spironolactone
   .
   # Thrombocytopenia: Recent range 72-100,000.  Likley from cirrhosis.
   - transfuse if plt ct < 50,000 and active bleeding
   .
   # Osteoarthritis: takes oxycodone as an outpatient
   -started on fentanyl as inpatient, will continue
   .
   # FEN: IVF PRN, replete electrolytes,
   .
   # Prophylaxis: Pneumoboots, pantoprazole
   .
   # Access: 2 PIV attempting 3^rd, ask IR to leave central line in place
   .
   # Code: Confirmed full on [**2163-12-19**] with patient
   .
   # Communication: Patient and Patient
s husband([**Name (NI) 391**])-[**Telephone/Fax (1) 7486**] Per
   Old records: (H) [**Telephone/Fax (1) 7487**]. (W) [**Telephone/Fax (1) 7488**].
   .
   # Disposition: ICU pending above
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2164-12-19**] 06:30 PM
   18 Gauge - [**2164-12-20**] 12:28 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2164-12-21 09:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2164-12-20**] 08:00 AM
   liver u/s
 MULTI LUMEN - START [**2164-12-20**] 01:30 PM
 [**Last Name (un) **] INSERTED - At [**2164-12-20**] 02:40 PM
 MULTI LUMEN - STOP [**2164-12-20**] 09:20 PM
 TRAUMA LINE - START [**2164-12-20**] 09:27 PM
   placed in IR, flushes well drsg [**Name5 (PTitle) 2995**]
 [**Name5 (PTitle) **] CULTURE - At [**2164-12-21**] 04:27 AM
   febrile T 101.8
 FEVER - 102.3
F - [**2164-12-21**] 05:00 AM
   - S/p TIPS revision, continued to bleed
   - [**Last Name (un) 4601**] tube placed by GI
   - S/P 8 variceal banding per IR, hemodynamically stable
   Allergies:
   Meperidine
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2164-12-19**] 10:00 PM
   Ceftriaxone - [**2164-12-20**] 10:22 PM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Octreotide - 50 mcg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-12-21**] 08:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-12-21**] 09:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 38.2
C (100.8
   HR: 99 (50 - 115) bpm
   BP: 107/57(68) {107/48(62) - 201/108(128)} mmHg
   RR: 14 (8 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,221 mL
                                                                  2,008 mL
   PO:
             TF:
   IVF:
                                                                  3,217 mL
                                                                  2,008 mL
   Blood products:
                                                                  2,004 mL
   Total out:
                                                                  2,592 mL
                                                                  1,045 mL
   Urine:
                                                                  2,042 mL
                                                                    845 mL
   NG:
                                                                    550 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  2,629 mL
                                                                    963 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Neuromusc Block
   PIP: 24 cmH2O
   Plateau: 14 cmH2O
   Compliance: 55.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/45/60/27/1
   Ve: 6.4 L/min
   PaO2 / FiO2: 120
   Physical Examination
   General: Sedated, [**Last Name (un) 4601**] tube in place
   HEENT: Difficult to assess [**1-7**] catcher
s helmet/[**Last Name (un) **]
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, nontender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   47 K/uL
   11.7 g/dL
   168 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.1 mEq/L
   20 mg/dL
   109 mEq/L
   142 mEq/L
   30.0 %
   4.1 K/uL
        [image002.jpg]
                             [**2164-12-19**]  09:58 PM
                             [**2164-12-20**]  06:05 AM
                             [**2164-12-20**]  01:32 PM
                             [**2164-12-20**]  02:55 PM
                             [**2164-12-20**]  06:15 PM
                             [**2164-12-20**]  08:40 PM
                             [**2164-12-21**]  12:29 AM
                             [**2164-12-21**]  04:14 AM
                             [**2164-12-21**]  04:26 AM
                             [**2164-12-21**]  08:13 AM
   WBC
   4.1
   5.6
   4.9
   4.1
   Hct
   29.4
   27.9
   31.6
   34.6
   31.4
   30.3
   30.8
   30.0
   Plt
   64
   51
   46
   51
   47
   Cr
   1.1
   1.0
   1.0
   1.0
   1.0
   TCO2
   29
   Glucose
   97
   102
   122
   114
   168
   Other labs: PT / PTT / INR:15.3/34.3/1.4, ALT / AST:18/35, Alk Phos / T
   Bili:60/1.7, Amylase / Lipase:100/93, Differential-Neuts:71.3 %,
   Lymph:21.8 %, Mono:3.6 %, Eos:3.3 %, Fibrinogen:233 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:2.8 g/dL, LDH:140 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.7 mg/dL, PO4:2.4 mg/dL
   Imaging: CXR [**12-20**]:
   AP single view of the chest obtained with patient in supine
   position demonstrates the presence of an ETT seen to terminate in the
   trachea
   some 4 cm above the level of the carina. Apparently the [**State 3822**] tube
   has
   been placed already and is seen to pass the entire esophagus being
   curled up
   in the lower portion of the stomach. An additional line identified
   consists
   of a right internal jugular approach central venous line seen to
   terminate
   overlying the SVC at the level 2 cm below the carina but safely above
   the
   expected entrance into the right atrium. There is no pneumothorax and
   no new parenchymal pulmonary abnormalities have developed in comparison
   with the next preceding chest examination of [**2164-12-19**].
   Liver U/S:
   1. Patent TIPS with stable velocities. Patent portal veins with
   appropriate
   direction of flow.
   2. Echogenic liver but no focal lesions identified. No biliary
   dilatation.
   3. Small right pleural effusion. No ascites.
   Microbiology: SPUTUM     Site: ENDOTRACHEAL
      GRAM STAIN (Final [**2164-12-21**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   BUDDING YEAST.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
   Assessment and Plan
   A 45 year old lady with variceal bleeds presented with hematemesis now
   s/p TIPS revision and extensive coiling of IVC duplicated varices.  She
   is sedated, hemodynamically stable and appears to be doing well.
   1. GI Bleed: Known grade III esophageal varices and gastric varices
   that are now s/p coiling with [**Last Name (un) 4601**] tube in place.  No bleeding
   overnight.
   - Untie [**Last Name (un) 4601**] tube per hepatology, Check CBC 3 hours post
   -continue octreotide drip at 50/hour
   -consult hepatology
   -Pantoprazole 40 IV Q 12
   - Remain intubated while [**Last Name (un) 4601**] tube in place
   #.  Fever:  Patient febrile overnight, possible causes include gut
   translocation & aspiration PNA.  Repeat CXR pending with [**Last Name (un) **] cultures.
   -          Follow Cultures, fever curve
   -          Abx as guided by culture data
   -          Remain intubated until PNA r/o
   # EtOH Cirrhosis: MELD score as of [**12-4**] was 12.
   - continue rifaxamin, lactulose w/ goal of 3 BM per day
   -discontinue Cipro and start ceftriaxone
   -Hold spironolactone
   # Thrombocytopenia: Recent range 72-100,000.  Likley from cirrhosis.
   -          transfuse if plt ct < 50,000 and active bleeding
   -          Recheck PM platelets
   # Osteoarthritis: takes oxycodone as an outpatient
   -started on fentanyl as inpatient, will continue
   # FEN: IVF @ replete electrolytes,
   # Prophylaxis: Pneumoboots, pantoprazole
   # Access: RIJ, 2 PIV
   # Code: Confirmed full on [**2163-12-19**] with patient
   # Communication: Patient and Patient
s husband([**Name (NI) 391**])-[**Telephone/Fax (1) 7486**] Per
   Old records: (H) [**Telephone/Fax (1) 7487**]. (W) [**Telephone/Fax (1) 7488**].
   # Disposition: ICU pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2164-12-19**] 06:30 PM
   20 Gauge - [**2164-12-19**] 06:30 PM
   Trauma line - [**2164-12-20**] 09:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2164-12-22 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - [**Last Name (un) 4601**] pulled
   - ABG showed compensated mild alkalosis, able to decrease FiO2 to 40%
   - Transfused platelets, however platelet count did not increase,
   transfused another unit of platelets
   - Checked CBC and coags at 2200, showed drop from 32 to 28 in 6 hours.
   Transfused one unit of PRBCs
   - OG lavage did not show evidence of continued bleeding, continues to
   have melanotic stools
   Allergies:
   Meperidine
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2164-12-19**] 10:00 PM
   Ceftriaxone - [**2164-12-21**] 08:43 PM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-12-21**] 08:44 PM
   Midazolam (Versed) - [**2164-12-22**] 05:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-12-22**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 36.9
C (98.4
   HR: 76 (73 - 108) bpm
   BP: 121/62(73) {99/50(62) - 130/70(84)} mmHg
   RR: 14 (14 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 58 Inch
           Total In:
                                                                  4,127 mL
                                                                    631 mL
   PO:
           TF:
   IVF:
                                                                  3,408 mL
                                                                    256 mL
   Blood products:
                                                                    719 mL
                                                                    375 mL
   Total out:
                                                                  1,800 mL
                                                                    425 mL
   Urine:
                                                                  1,380 mL
                                                                    425 mL
   NG:
                                                                    420 mL
   Stool:
   Drains:
   Balance:
                                                                  2,327 mL
                                                                    206 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 26 cmH2O
   Plateau: 15 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   ABG: 7.47/40/180/25/5
   Ve: 6.8 L/min
   PaO2 / FiO2: 450
   Physical Examination
   General: Sedated, but becomes agitated on exam
   HEENT: MM moist, OB with dark blood currently clamped
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, nontender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   47 K/uL
   12.4 g/dL
   108 mg/dL
   1.0 mg/dL
   25 mEq/L
   3.7 mEq/L
   17 mg/dL
   109 mEq/L
   139 mEq/L
   32.9 %
   4.1 K/uL
        [image002.jpg]
                             [**2164-12-20**]  08:40 PM
                             [**2164-12-21**]  12:29 AM
                             [**2164-12-21**]  04:14 AM
                             [**2164-12-21**]  04:26 AM
                             [**2164-12-21**]  08:13 AM
                             [**2164-12-21**]  01:00 PM
                             [**2164-12-21**]  05:26 PM
                             [**2164-12-21**]  06:12 PM
                             [**2164-12-21**]  11:03 PM
                             [**2164-12-22**]  03:54 AM
   WBC
   4.9
   4.1
   3.0
   3.4
   4.1
   Hct
   31.4
   30.3
   30.8
   30.0
   27.7
   32.8
   28.6
   32.9
   Plt
   46
   51
   47
   36
   36
   44
   47
   Cr
   1.0
   1.0
   1.0
   1.0
   TCO2
   29
   30
   Glucose
   114
   168
   121
   108
   Other labs: PT / PTT / INR:16.1/33.9/1.4, ALT / AST:26/47, Alk Phos / T
   Bili:59/5.4, Amylase / Lipase:100/93, Differential-Neuts:71.3 %,
   Lymph:21.8 %, Mono:3.6 %, Eos:3.3 %, Fibrinogen:233 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:2.8 g/dL, LDH:140 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.4 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   A 45 year old lady with variceal bleeds presented with hematemesis now
   s/p TIPS revision and extensive coiling of IVC duplicated varices.  She
   is sedated, hemodynamically stable and appears to be doing well.
   1. GI Bleed: Known grade III esophageal varices and gastric varices
   that are now s/p coiling with [**Last Name (un) 4601**] tube discontinued.  No bleeding
   overnight.
   -continue octreotide drip at 50/hour
   -consult hepatology
   -Pantoprazole 40 IV Q 12
   - Remain intubated and attempt to wean midaz and start propofol
   -Place NG tube in anticipation of OG tube
   -Q 6 hours HCT
   #.  Fever:  Patient febrile overnight, possible causes include gut
   translocation & aspiration PNA.  Repeat CXR with worsening of Right
   effusion, pan cultures pending.
   -          Follow Cultures, fever curve and stop Tylenol to see if
   spike
   -          Abx as guided by culture data
   -          Attempt paracentesis this afternoon to see if infection
   # EtOH Cirrhosis: MELD score as of [**12-4**] was 12.
   - continue rifaxamin, lactulose w/ goal of 3 BM per day
   -On Ceftriaxone
   -Hold spironolactone
   # Thrombocytopenia: Recent range 72-100,000.  Likley from cirrhosis.
   -          transfuse if plt ct < 50,000 and active bleeding
   -          Recheck PM platelets
   # Osteoarthritis: takes oxycodone as an outpatient
   -started on fentanyl as inpatient, will continue
   # FEN: NPO,  IVF- boluses PRN, replete electrolytes,
   # Prophylaxis: Pneumoboots, pantoprazole
   # Access: RIJ, 2 PIV
   # Code: Confirmed full on [**2163-12-19**] with patient
   # Communication: Patient and Patient
s husband([**Name (NI) 391**])-[**Telephone/Fax (1) 7486**] Per
   Old records: (H) [**Telephone/Fax (1) 7487**]. (W) [**Telephone/Fax (1) 7488**].
   # Disposition: ICU pending above
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ELECTROLYTE & FLUID DISORDER, OTHER
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2164-12-19**] 06:30 PM
   Trauma line - [**2164-12-20**] 09:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2164-12-23 06:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Attempted paracentesis but insufficient pocket
   - Repeat HCT
   - NG tube placed
   - Transitioned off fentanyl/midaz and onto propafol
   - Stopped tylenol in order to follow fever curve-remained 99 all day
   Allergies:
   Meperidine
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2164-12-22**] 09:08 PM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Morphine Sulfate - [**2164-12-23**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-12-23**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.3
   HR: 92 (76 - 112) bpm
   BP: 161/104(114) {89/43(54) - 161/104(114)} mmHg
   RR: 10 (8 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 58 Inch
             Total In:
                                                                  1,243 mL
                                                                    720 mL
   PO:
             TF:
   IVF:
                                                                    868 mL
                                                                    660 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,300 mL
                                                                    600 mL
   Urine:
                                                                  1,300 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -57 mL
                                                                    120 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 130 (130 - 130) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 22
   PIP: 13 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: ///21/
   Ve: 8.6 L/min
   Physical Examination
   General: Sedated, but becomes agitated on exam
   HEENT: MM moist, OB with dark blood currently clamped
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, nontender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   45 K/uL
   11.7 g/dL
   87 mg/dL
   1.0 mg/dL
   21 mEq/L
   4.5 mEq/L
   16 mg/dL
   109 mEq/L
   139 mEq/L
   32.5 %
   2.9 K/uL
        [image002.jpg]
                             [**2164-12-21**]  08:13 AM
                             [**2164-12-21**]  01:00 PM
                             [**2164-12-21**]  05:26 PM
                             [**2164-12-21**]  06:12 PM
                             [**2164-12-21**]  11:03 PM
                             [**2164-12-22**]  03:54 AM
                             [**2164-12-22**]  09:44 AM
                             [**2164-12-22**]  03:14 PM
                             [**2164-12-22**]  08:46 PM
                             [**2164-12-23**]  03:07 AM
   WBC
   3.0
   3.4
   4.1
   4.1
   3.5
   3.3
   2.9
   Hct
   30.0
   27.7
   32.8
   28.6
   32.9
   31.0
   32.7
   31.6
   32.5
   Plt
   36
   36
   44
   47
   40
   41
   42
   45
   Cr
   1.0
   1.0
   1.0
   1.0
   TCO2
   30
   Glucose
   121
   108
   84
   87
   Other labs: PT / PTT / INR:15.0/33.7/1.3, ALT / AST:29/49, Alk Phos / T
   Bili:65/5.1, Amylase / Lipase:100/93, Differential-Neuts:78.7 %,
   Lymph:13.1 %, Mono:4.7 %, Eos:3.4 %, Fibrinogen:303 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:2.8 g/dL, LDH:140 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   A 45 year old lady with variceal bleeds presented with hematemesis now
   s/p TIPS revision and extensive coiling of IVC duplicated varices.  She
   is sedated, hemodynamically stable and appears to be doing well.
   1. GI Bleed: Known grade III esophageal varices and gastric varices
   that are now s/p coiling with [**Last Name (un) 4601**] tube discontinued.  No bleeding
   overnight.
   -continue octreotide drip at 50/hour
   -appreciate hepatology input
   -Pantoprazole 40 IV Q 12
   - Remain intubated and attempt to wean midaz yesterday was successful
   and propofol started
   - Will attempt trial of PS this  AM and a SBT to see if patient will be
   able to extubate today
   -continue NG tube with Q 4 hour draws to eval for color change-if
   patient gets worse will go to IR for repeat embolization and may
   require [**Last Name (un) 4601**] for initial stabilization
   -Q 6 hours HCT
   -Continue to observe stool output
   #.  Fever:  Patient febrile overnight, possible causes include gut
   translocation & aspiration PNA.  Repeat CXR with unchanged Right
   effusion, pan cultures pending.
   -          Fever curve plateaued
   -          Abx as guided by culture data
   -          Unable to collect paracentesis
   # EtOH Cirrhosis: MELD score as of [**12-4**] was 12.
   - continue rifaxamin, lactulose w/ goal of 3 BM per day
   -On Ceftriaxone
   -Hold spironolactone-will reinitiate when extubated and pressures
   stable.
   # Thrombocytopenia: Recent range 72-100,000.  Likley from cirrhosis.
   -          transfuse if plt ct < 50,000 and active bleeding
   -          Recheck PM platelets
   # Osteoarthritis: takes oxycodone as an outpatient
   -started on fentanyl as inpatient, will continue
   # FEN: NPO,  IVF- boluses PRN, replete electrolytes,
   # Prophylaxis: Pneumoboots, pantoprazole
   # Access: RIJ only, will need PIV for access prior to floor call out
   # Code: Confirmed full on [**2163-12-19**] with patient
   # Communication: Patient and Patient
s husband([**Name (NI) 391**])-[**Telephone/Fax (1) 7486**] Per
   Old records: (H) [**Telephone/Fax (1) 7487**]. (W) [**Telephone/Fax (1) 7488**].
   # Disposition: ICU pending above
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ELECTROLYTE & FLUID DISORDER, OTHER
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2164-12-19**] 06:30 PM
   Trauma line - [**2164-12-20**] 09:27 PM
   16 Gauge - [**2164-12-22**] 12:46 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2164-12-24 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2164-12-23**] 09:55 AM
   [**2164-12-23**]:
   - Extubated, pain apparently well controlled
   Allergies:
   Meperidine
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2164-12-22**] 09:08 PM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2164-12-23**] 10:00 AM
   Morphine Sulfate - [**2164-12-24**] 05:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-12-24**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (98.9
   HR: 74 (70 - 127) bpm
   BP: 129/62(78) {114/58(70) - 170/91(109)} mmHg
   RR: 9 (9 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 58 Inch
             Total In:
                                                                  1,093 mL
                                                                    200 mL
   PO:
             TF:
   IVF:
                                                                  1,033 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  4,050 mL
                                                                  1,160 mL
   Urine:
                                                                  3,620 mL
                                                                  1,130 mL
   NG:
                                                                    430 mL
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,957 mL
                                                                   -960 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 506 (506 - 506) mL
   PS : 5 cmH2O
   RR (Spontaneous): 9
   PEEP: 0 cmH2O
   FiO2: 0%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 4.3 L/min
   Physical Examination
   General: Sedated, but becomes agitated on exam
   HEENT: MM moist, OB with dark blood currently clamped
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, nontender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   36 K/uL
   11.7 g/dL
   70 mg/dL
   1.0 mg/dL
   23 mEq/L
   4.1 mEq/L
   13 mg/dL
   105 mEq/L
   139 mEq/L
   32.1 %
   2.5 K/uL
         [image002.jpg]
                             [**2164-12-21**]  11:03 PM
                             [**2164-12-22**]  03:54 AM
                             [**2164-12-22**]  09:44 AM
                             [**2164-12-22**]  03:14 PM
                             [**2164-12-22**]  08:46 PM
                             [**2164-12-23**]  03:07 AM
                             [**2164-12-23**]  09:08 AM
                             [**2164-12-23**]  03:52 PM
                             [**2164-12-23**]  08:44 PM
                             [**2164-12-24**]  03:47 AM
   WBC
   3.4
   4.1
   4.1
   3.5
   3.3
   2.9
   2.5
   Hct
   28.6
   32.9
   31.0
   32.7
   31.6
   32.5
   30.8
   32.8
   32.0
   32.1
   Plt
   44
   47
   40
   41
   42
   45
   36
   Cr
   1.0
   1.0
   1.0
   1.0
   1.0
   1.0
   Glucose
   121
   108
   84
   87
   73
   70
   Other labs: PT / PTT / INR:14.6/32.0/1.3, ALT / AST:27/48, Alk Phos / T
   Bili:75/7.6, Amylase / Lipase:100/93, Differential-Neuts:78.7 %,
   Lymph:13.1 %, Mono:4.7 %, Eos:3.4 %, Fibrinogen:303 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:140 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   A 45 year old lady with variceal bleeds presented with hematemesis now
   s/p TIPS revision and extensive coiling of IVC duplicated varices.  She
   is sedated, hemodynamically stable and appears to be doing well.
   1. GI Bleed: Known grade III esophageal varices and gastric varices
   that are now s/p coiling with [**Last Name (un) 4601**] tube discontinued.  No bleeding
   for the past two days.  Hct have remained stable for past 24 hours.  Pt
   extubated without difficulty.
   -continue octreotide drip at 50/hour
   -appreciate hepatology input
   - continue pantoprazole 40 IV Q 12
   - will continue NG tube with Q 4 hour draws to eval for color change-if
   patient gets worse will go to IR for repeat embolization and may
   require [**Last Name (un) 4601**] for initial stabilization
   - Q 6 hours HCT
   - Continue to observe stool output
   - [**Month (only) 60**] try sips of clear fluids today
   #.  Fever:  Patient febrile overnight, possible causes include gut
   translocation & aspiration PNA.  Repeat CXR with unchanged Right
   effusion, pan cultures pending.
   -          Fever curve plateaued
   -          Hold antibiotics except for SBP prophylaxis, will continue
   to follow cultures
   -          Unable to collect paracentesis
   # EtOH Cirrhosis: MELD score as of [**12-4**] was 12.
   - continue rifaxamin, lactulose w/ goal of 3 BM per day
   -On Ceftriaxone for SBP prophylaxis
   -Hold spironolactone- will consider restarting today given BP
s within
   normal range
   # Thrombocytopenia: Recent range 72-100,000.  Likely from cirrhosis.
   Low today, but no active bleeding
   -          transfuse if plt ct < 50,000 and active bleeding
   -          Recheck PM platelets
   # Osteoarthritis: takes oxycodone as an outpatient
   -started on fentanyl as inpatient, will continue
   # FEN: NPO, will attempt clears today,  IVF- boluses PRN, replete
   electrolytes,
   # Prophylaxis: Pneumoboots, pantoprazole
   # Access: RIJ only, will need PIV for access prior to floor call out
   # Code: Confirmed full on [**2163-12-19**] with patient
   # Communication: Patient and Patient
s husband([**Name (NI) 391**])-[**Telephone/Fax (1) 7486**] Per
   Old records: (H) [**Telephone/Fax (1) 7487**]. (W) [**Telephone/Fax (1) 7488**].
   # Disposition: ICU pending above, will likely send to floor today
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ELECTROLYTE & FLUID DISORDER, OTHER
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   ICU Care
   Nutrition:  Will consider clears today
   Glycemic Control:
   Lines:
   Trauma line - [**2164-12-20**] 09:27 PM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  Full code
   Disposition:  may plan to send to the floor today